* D:\Documents\GitHub\VLSI_LTSPICE_STUFF\Report\Tristatetest.asc
M9 VCC EN N002 N001 TestP l=10u w=40u
M10 N002 EN 0 N003 TestN l=10u w=20u
M11 VCC BL P001 VCC TestP l=10u w=40u
M12 P001 N002 A VCC TestP l=10u w=40u
M13 A EN P002 0 TestN l=10u w=20u
M14 P002 BL 0 0 TestN l=10u w=20u
V1 VCC 0 1.8
V3 EN 0 PULSE(0 1.8 20n 100p 100p 10n 20n)
V4 BL 0 PULSE(0 1.8 1n 100p 100p 2n 5n)
A1 BL EN EN EN EN EN B EN BUF
A2 BL EN EN EN EN EN C EN SCHMITT
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Manupa\AppData\Local\LTspice\lib\cmp\standard.mos
.MODEL TestN NMOS KP=96.379u VTO=0.786 LAMBDA=0.01 TOX=21.2n GAMMA=0.5863 CGDO=402.41p CGSO=402.41p CGBO=361.44p
.MODEL TestP PMOS KP=96.379u VTO=-0.9056 LAMBDA=0.01 TOX=21.2n GAMMA=0.4863 CGDO=53.752p CGSO=53.752p CGBO=336.5p
.tran 100n
.backanno
.end
